US08461175B2
115 mg of 3-bromo-5-(2,6-difluorophenyl)-7-(1H-pyrazol-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinoline are introduced into 2 ml of DMF, 0.26 ml of diisopropylethylamine and 77 μl of 2-(trimethylsilyl)ethoxymethyl chloride. The reaction mixture is stirred at RT for 18 h and then poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. The product is purified by chromatography on silica gel (20-45 μm), eluting with a mixture of DCM and methanol (98/02 by vol.), to give 116 mg of 3-bromo-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-7-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)-2H-pyrazolo[4,3-c]isoquinoline (yellow powder). 1H NMR: −0.01 (d, J=5.9 Hz, 4 H) 0.82-1.00 (m, 1 H) 3.60 (t, J=7.8 Hz, 1 H) 3.77 (t, 1 H) 5.46 (s, 1 H) 5.92 (s, 1 H) 7.42 (t, 1 H) 7.71-7.83 (m, 1 H) 8.03 (s, 1 H) 8.28 (dd, 1 H) 8.43 (s, 1 H) 8.58 (d, J=8.3 Hz, 1 H).

reactant | 3-bromo-5-(2,6-difluorophenyl)-7-(1H-pyrazol-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinoline | 115 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)C=2C=NNC2)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C25H24BrF2N5OSi
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | diisopropylethylamine | 0.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 77 μl | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | water | O | H2O
product | 3-bromo-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-7-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)-2H-pyrazolo[4,3-c]isoquinoline | 116 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)C=2C=NN(C2)COCC[Si](C)(C)C)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C31H38BrF2N5O2Si2
